US07456164B2
1-[4-(3-piperidin-1-yl-propoxy)-phenyl]-cyclohexane-carbonitrile
A mixture of 1-[4-(3-bromo-propoxy)-phenyl]-cyclohexanecarbonitrile (0.660 g, 2.0 mmol), piperidine (0.260 g, 3.0 mmol), sodium carbonate (0.320 g, 3 mmol), potassium iodide (20 mg) and 20 mL of butanol was heated for 4 h at 100° C. according to general procedure G. After cooling, water was added to quench the reaction and the mixture was extracted with DCM. The organics extracts were washed with a saturated aqueous solution of NaHCO3, water and dried over Na2SO4, filtered and concentrated. The residue was purified by flash chromatography (DCM and DCM/MeOH (10% NH3) to provide the title compound (0.440 g, 67%). 1H NMR (400 MHz, CDCl3) δ7.37 (d, 2H), 6.90 (d, 2H), 4.00 (t, 2H), 2.49-2.36 (m, 6H), 2.17-2.09 (m, 2H), 1.97 (qt, 2H), 1.88-1.67 (m, 7H), 1.62-1.55 (m, 4H), 1.47-1.40 (m, 2H), 1.32-1.20 (m, 1H).

reactant | 1-[4-(3-bromo-propoxy)-phenyl]-cyclohexanecarbonitrile | 2.0 mmol, 0.660 g | BrCCCOC1=CC=C(C=C1)C1(CCCCC1)C#N | C16H20BrNO
reactant | piperidine | 3.0 mmol, 0.260 g | N1CCCCC1 | C5H11N
reactant | sodium carbonate | 3 mmol, 0.320 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | butanol | 20 mL | C(CCC)O | C4H10O
catalyst | potassium iodide | 20 mg | [I-].[K+]
solvent | water | O | H2O
product | 1-[4-(3-piperidin-1-yl-propoxy)-phenyl]-cyclohexane-carbonitrile | 0.440 g, 67% | N1(CCCCC1)CCCOC1=CC=C(C=C1)C1(CCCCC1)C#N | C21H30N2O
